US09403846B2
Step 10: Synthesis of N-({(3S,4R,6R)-3-(2,4-difluorophenyl)-4-(hydroxymethyl)-6-[(2S)-tetrahydrofuran-2-yl]tetrahydro-2H-pyran-3-yl}carbamothioyl)benzamide (C102)
{(2R,4R,5S)-5-Amino-5-(2,4-difluorophenyl)-2-[(2S)-tetrahydrofuran-2-yl]tetrahydro-2H-pyran-4-yl}methanol (C101) was converted to the product using the method described for the synthesis of N-({(3S,4R,6R)-3-(2,4-difluorophenyl)-4-(hydroxymethyl)-6-[(1R,2R)-2-methylcyclopropyl]tetrahydro-2H-pyran-3-yl}carbamothioyl)benzamide (C90) in Example 20. Yield: 1.3 g, 2.7 mmol, 70% over 2 steps from (C100). LCMS m/z 477.2 [M+H+].

reactant | {(2R,4R,5S)-5-Amino-5-(2,4-difluorophenyl)-2-[(2S)-tetrahydrofuran-2-yl]tetrahydro-2H-pyran-4-yl}methanol | N[C@@]1([C@@H](C[C@@H](OC1)[C@H]1OCCC1)CO)C1=C(C=C(C=C1)F)F | C16H21F2NO3
reactant | N-({(3S,4R,6R)-3-(2,4-difluorophenyl)-4-(hydroxymethyl)-6-[(1R,2R)-2-methylcyclopropyl]tetrahydro-2H-pyran-3-yl}carbamothioyl)benzamide | FC1=C(C=CC(=C1)F)[C@@]1(CO[C@H](C[C@H]1CO)[C@H]1[C@@H](C1)C)NC(=S)NC(C1=CC=CC=C1)=O | C24H26F2N2O3S
product | N-({(3S,4R,6R)-3-(2,4-difluorophenyl)-4-(hydroxymethyl)-6-[(2S)-tetrahydrofuran-2-yl]tetrahydro-2H-pyran-3-yl}carbamothioyl)benzamide | FC1=C(C=CC(=C1)F)[C@@]1(CO[C@H](C[C@H]1CO)[C@H]1OCCC1)NC(=S)NC(C1=CC=CC=C1)=O | C24H26F2N2O4S
